US06326372B1
Step 2: 3-t-Butoxycarbonylamino-3-(3,4-difluorophenyl)propionic Acid
To a slurry of 3-amino-3-(3,4-difluorophenyl)propionic acid (4.2 g, 20 mmol) and di-t-butyldicarbonate (4.56 g, 20 mmol) in 50 mL of THF/water (2:1) was added triethylamine (4.17 mL, 30 mmol) dropwise. The slurry became clear within 5 minutes, and was stirred for an additional 3 hours. The reaction solution was evaporated to dryness and the resulting residue was partitioned between ethyl acetate and 1M HCl. The phases were separated and the organic phase was washed with 1M HCl and brine. The organic layer was dried over sodium sulfate, filtered, and evaporated to dryness. The residue was reconcentrated from hexane, then triturated with hexane and filtered to give the title compound as a solid.

reactant | 3-amino-3-(3,4-difluorophenyl)propionic acid | 20 mmol, 4.2 g | NC(CC(=O)O)C1=CC(=C(C=C1)F)F | C9H9F2NO2
reactant | di-t-butyldicarbonate | 20 mmol, 4.56 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 30 mmol, 4.17 mL | C(C)N(CC)CC | C6H15N
solvent | THF water | 50 mL | C1CCOC1.O
product | 3-t-Butoxycarbonylamino-3-(3,4-difluorophenyl)propionic Acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1=CC(=C(C=C1)F)F | C14H17F2NO4
